US06706663B2
Preparation of 3-(5-Methyl-1,3,4-thiadiazol-2-yl)-5-nitro-1,2-benzisothiazole
To a mixture of 3-(5-methyl-1,3,4-thiadiazol-2-yl)-1,2-benzisothiazole(6.8 g, 0.0291 mol) and conc. sulfuric acid at 10° C. is added 90% nitric acid (3.20 ml, 0.582 mol) dropwise. The resultant mixture is stirred 90 min at 0-10° C. and poured into ice water with stirring. Filtration affords a solid which is stirred in hot methylene chloride and filtered to afford the title compound as a tan solid (mp 239-240° C.) which is identified by NMR analysis.

reactant | 3-(5-methyl-1,3,4-thiadiazol-2-yl)-1,2-benzisothiazole | 0.0291 mol, 6.8 g | CC1=NN=C(S1)C1=NSC2=C1C=CC=C2 | C10H7N3S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.582 mol, 3.20 ml | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(5-Methyl-1,3,4-thiadiazol-2-yl)-5-nitro-1,2-benzisothiazole | CC1=NN=C(S1)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C10H6N4O2S2
